US07112698B2
(E)-1-(4-ethoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one (DMU-190)
To a stirred solution of 4-ethoxybenzaldehyde (1.32 ml, 9.5 mmol) and 3,4,5-trimethoxyacetophenone (2.0 g, 9.5 mmol) in methanol (30 ml) was added 50% w/v of aqueous sodium hydroxide (7.6 ml, 0.095 mol). The reaction was stirred for 24 h at room temperature. A precipitate was isolated by filtration, washed with pet:ether and subsequently recrystallised from ethanol. 1.8 g (55%) of a pale yellow powder was isolated. 1H-NMR (CDCl3) δ 7.8 (d, 1H), 7.6 (d, 2H), 7.3 (d, 1H), 6.9 (d, 2H), 4.1 (q, 2H), 3.9 (s×2, 9H), 1.4 (t, 3H). 13C-NMR (CDCl3) δ 189.2, 161.1, 153.1, 142.3, 133.8, 127.4, 63.4. Mass Spectrum m/e (M+1) 343.

reactant | 4-ethoxybenzaldehyde | 9.5 mmol, 1.32 ml | C(C)OC1=CC=C(C=O)C=C1 | C9H10O2
reactant | 3,4,5-trimethoxyacetophenone | 9.5 mmol, 2.0 g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | sodium hydroxide | 0.095 mol, 7.6 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (E)-1-(4-ethoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one | 1.8 g, 55% | C(C)OC1=CC=C(C=C1)\C=C\C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C20H22O5
